US08278335B2
Step 1. 4-[(6-Bromopyridin-2-yl)methyl]thiomorpholine 1,1-dioxide
The title compound was prepared as described in Example 2, Step 1 using 6-bromopyridine-2-carbaldehyde (3.0 g, 16.13 mmol), thiomorpholine 1,1-dioxide (2.18 g, 16.13 mmol), and sodium triacetoxyborohydride (4.79 g, 22.58 mmol) as starting materials. 1H NMR (600 MHz, d6-DMSO) δ 7.72 (t, 1H), 7.51 (d, 1H), 7.50 (d, 1H), 3.74 (s, 2H), 3.10 (m, 4H), 2.90 (m, 4H).

reactant | 6-bromopyridine-2-carbaldehyde | 16.13 mmol, 3.0 g | BrC1=CC=CC(=N1)C=O | C6H4BrNO
reactant | thiomorpholine 1,1-dioxide | 16.13 mmol, 2.18 g | N1CCS(CC1)(=O)=O | C4H9NO2S
reactant | sodium triacetoxyborohydride | 22.58 mmol, 4.79 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | 4-[(6-Bromopyridin-2-yl)methyl]thiomorpholine 1,1-dioxide | BrC1=CC=CC(=N1)CN1CCS(CC1)(=O)=O | C10H13BrN2O2S
